US05571821
Tetrakis (triphenylphosphine) palladium (400 mg), Na2CO3 (4M, 80 ml, 320 mmol) and phenylboric acid (3.81 g, 30.3 mmol) as a solution in ethanol (80 ml) were sequentially added to a solution of 2,3-dibromothiophene (7.33 g, 30.3 mmol) in benzene (100 ml). The mixture was heated at reflux for 12 hours. The aqueous layer of the crude mixture was removed and the organic layer was diluted with Et2O (200 ml), washed with 1N NaOH (2×150 ml) and was dried (MgSO2), filtered and the soluent was evaporated. The residue was chromatographed using hexane as the eluent to give 3-bromo-2-phenylthiophene as a clear oil (3.31 g, 47% yield).

reactant | Na2CO3 | 320 mmol, 4M, 80 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | phenylboric acid | 30.3 mmol, 3.81 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | 2,3-dibromothiophene | 30.3 mmol, 7.33 g | BrC=1SC=CC1Br | C4H2Br2S
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | Tetrakis (triphenylphosphine) palladium | 400 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-bromo-2-phenylthiophene | 3.31 g, 47% yield | BrC1=C(SC=C1)C1=CC=CC=C1 | C10H7BrS
